US04427590
A solution of 0.37 g of 6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-carboxylic acid ethyl ester in 5 ml of absolute tetrahydrofuran is added dropwise in the course of 15 minutes, with ice cooling and with stirring, to a suspension of 0.078 g of lithium aluminium hydride in 5 ml of absolute tetrahydrofuran. After a further 45 minutes of stirring at 0°-5°, 0.40 ml of 1-n sodium hydroxide solution are added dropwise. The inorganic salts are filtered off, the filtrate is concentrated in vacuo, and the residue dissolved in 10 ml of chloroform. The solution is washed with 1-n sodium hydroxide solution and then with water, dried over sodium sulphate, and concentrated by evaporation. The residue is recrystallised from ethyl acetate/petroleum ether to obtain 6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4benzodiazepine-1-methanol, M.P. 210°-211°.

reactant | 6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-carboxylic acid ethyl ester | 0.37 g | C(C)OC(=O)C1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)Cl | C19H15ClN4O2
reactant | lithium aluminium hydride | 0.078 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1,4benzodiazepine-1-methanol | N1(C=CN=CC2=C1C=CC=C2)CO | C10H10N2O
